* e:\fossee\ws\8x8_sram_final_bit_addressable\8x8_sram_final_bit_addressable.cir

.include SANKET_8X8_BIT_ADDRESSABLE_RAM.sub
.include "E:\FOSSEE\eSim\library\sky130_fd_pr\models\sky130_fd_pr__model__linear.model.spice"
.include "E:\FOSSEE\eSim\library\sky130_fd_pr\models\sky130_fd_pr__model__pnp.model.spice"
.lib "E:\FOSSEE\eSim\library\sky130_fd_pr\models\sky130.lib.spice" tt
.include "E:\FOSSEE\eSim\library\sky130_fd_pr\models\sky130_fd_pr__model__r+c.model.spice"
.include "E:\FOSSEE\eSim\library\sky130_fd_pr\models\sky130_fd_pr__model__diode_pw2nd_11v0.model.spice"
.include "E:\FOSSEE\eSim\library\sky130_fd_pr\models\sky130_fd_pr__model__inductors.model.spice"
.include "E:\FOSSEE\eSim\library\sky130_fd_pr\models\sky130_fd_pr__model__diode_pd2nw_11v0.model.spice"
x1 net-_u5-pad9_ d_in r_en q_65 net-_u5-pad10_ d_in dum net-_u5-pad11_ d_in dum net-_u5-pad12_ d_in dum net-_u5-pad13_ d_in dum net-_u5-pad14_ d_in dum net-_u5-pad15_ d_in dum net-_u5-pad16_ d_in dum net-_u6-pad9_ SANKET_8X8_BIT_ADDRESSABLE_RAM
x3 net-_u5-pad9_ d_in r_en dum net-_u5-pad10_ d_in dum net-_u5-pad11_ d_in dum net-_u5-pad12_ d_in dum net-_u5-pad13_ d_in dum net-_u5-pad14_ d_in dum net-_u5-pad15_ d_in dum net-_u5-pad16_ d_in dum net-_u6-pad10_ SANKET_8X8_BIT_ADDRESSABLE_RAM
x2 net-_u5-pad9_ d_in r_en dum net-_u5-pad10_ d_in dum net-_u5-pad11_ d_in dum net-_u5-pad12_ d_in dum net-_u5-pad13_ d_in dum net-_u5-pad14_ d_in dum net-_u5-pad15_ d_in dum net-_u5-pad16_ d_in dum net-_u6-pad13_ SANKET_8X8_BIT_ADDRESSABLE_RAM
x4 net-_u5-pad9_ d_in r_en dum net-_u5-pad10_ d_in dum net-_u5-pad11_ d_in dum net-_u5-pad12_ d_in dum net-_u5-pad13_ d_in dum net-_u5-pad14_ d_in dum net-_u5-pad15_ d_in dum net-_u5-pad16_ d_in dum net-_u6-pad14_ SANKET_8X8_BIT_ADDRESSABLE_RAM
x5 net-_u5-pad9_ d_in r_en dum net-_u5-pad10_ d_in dum net-_u5-pad11_ d_in dum net-_u5-pad12_ d_in dum net-_u5-pad13_ d_in dum net-_u5-pad14_ d_in dum net-_u5-pad15_ d_in dum net-_u5-pad16_ d_in dum net-_u6-pad11_ SANKET_8X8_BIT_ADDRESSABLE_RAM
x7 net-_u5-pad9_ d_in r_en dum net-_u5-pad10_ d_in dum net-_u5-pad11_ d_in dum net-_u5-pad12_ d_in dum net-_u5-pad13_ d_in dum net-_u5-pad14_ d_in dum net-_u5-pad15_ d_in dum net-_u5-pad16_ d_in dum net-_u6-pad12_ SANKET_8X8_BIT_ADDRESSABLE_RAM
x6 net-_u5-pad9_ d_in r_en dum net-_u5-pad10_ d_in dum net-_u5-pad11_ d_in dum net-_u5-pad12_ d_in dum net-_u5-pad13_ d_in dum net-_u5-pad14_ d_in dum net-_u5-pad15_ d_in dum net-_u5-pad16_ d_in dum net-_u6-pad15_ SANKET_8X8_BIT_ADDRESSABLE_RAM
x8 net-_u5-pad9_ d_in r_en dum net-_u5-pad10_ d_in dum net-_u5-pad11_ d_in dum net-_u5-pad12_ d_in dum net-_u5-pad13_ d_in dum net-_u5-pad14_ d_in dum net-_u5-pad15_ d_in dum net-_u5-pad16_ d_in q_00 net-_u6-pad16_ SANKET_8X8_BIT_ADDRESSABLE_RAM
* u2  net-_u2-pad1_ net-_u2-pad2_ net-_u2-pad3_ net-_u2-pad4_ net-_u2-pad5_ net-_u2-pad6_ net-_u2-pad7_ net-_u2-pad8_ net-_u2-pad9_ net-_u2-pad10_ net-_u2-pad11_ net-_u2-pad12_ sanket_decoder_3x8
* u5  net-_u1-pad5_ net-_u1-pad6_ net-_u1-pad7_ net-_u1-pad8_ net-_u1-pad9_ net-_u1-pad10_ net-_u1-pad11_ net-_u1-pad12_ net-_u5-pad9_ net-_u5-pad10_ net-_u5-pad11_ net-_u5-pad12_ net-_u5-pad13_ net-_u5-pad14_ net-_u5-pad15_ net-_u5-pad16_ dac_bridge_8
* u1  net-_u1-pad1_ net-_u1-pad2_ net-_u1-pad3_ net-_u1-pad4_ net-_u1-pad5_ net-_u1-pad6_ net-_u1-pad7_ net-_u1-pad8_ net-_u1-pad9_ net-_u1-pad10_ net-_u1-pad11_ net-_u1-pad12_ sanket_decoder_3x8
* u6  net-_u2-pad5_ net-_u2-pad6_ net-_u2-pad7_ net-_u2-pad8_ net-_u2-pad9_ net-_u2-pad10_ net-_u2-pad11_ net-_u2-pad12_ net-_u6-pad9_ net-_u6-pad10_ net-_u6-pad11_ net-_u6-pad12_ net-_u6-pad13_ net-_u6-pad14_ net-_u6-pad15_ net-_u6-pad16_ dac_bridge_8
* u3  column column column en net-_u2-pad1_ net-_u2-pad2_ net-_u2-pad3_ net-_u2-pad4_ adc_bridge_4
* u4  row row row net-_u4-pad4_ net-_u1-pad1_ net-_u1-pad2_ net-_u1-pad3_ net-_u1-pad4_ adc_bridge_4
v8  net-_u4-pad4_ gnd pulse(0 1.8 0.0 0.1 0.1 10 20)
v3  row gnd pulse(0 1.8 0.0 0.1 0.1 3 6)
v9  r_en gnd pulse(0 1.8 0.0 0.1 0.1 5 10)
v7  en gnd pulse(0 1.8 0.0 0.1 0.1 10 20)
v1  column gnd pulse(0 1.8 0.0 0.1 0.1 3 6)
v10  d_in gnd pulse(0 1.8 0.0 0.1 0.1 1 2)
* u7  q_65 plot_v1
* u8  q_00 plot_v1
* u11  en plot_v1
* u9  column plot_v1
* u10  row plot_v1
* u12  r_en plot_v1
* u13  d_in plot_v1
* s c m o d e
a1 [net-_u2-pad1_ net-_u2-pad2_ net-_u2-pad3_ ] [net-_u2-pad4_ ] [net-_u2-pad5_ net-_u2-pad6_ net-_u2-pad7_ net-_u2-pad8_ net-_u2-pad9_ net-_u2-pad10_ net-_u2-pad11_ net-_u2-pad12_ ] u2
a2 [net-_u1-pad5_ net-_u1-pad6_ net-_u1-pad7_ net-_u1-pad8_ net-_u1-pad9_ net-_u1-pad10_ net-_u1-pad11_ net-_u1-pad12_ ] [net-_u5-pad9_ net-_u5-pad10_ net-_u5-pad11_ net-_u5-pad12_ net-_u5-pad13_ net-_u5-pad14_ net-_u5-pad15_ net-_u5-pad16_ ] u5
a3 [net-_u1-pad1_ net-_u1-pad2_ net-_u1-pad3_ ] [net-_u1-pad4_ ] [net-_u1-pad5_ net-_u1-pad6_ net-_u1-pad7_ net-_u1-pad8_ net-_u1-pad9_ net-_u1-pad10_ net-_u1-pad11_ net-_u1-pad12_ ] u1
a4 [net-_u2-pad5_ net-_u2-pad6_ net-_u2-pad7_ net-_u2-pad8_ net-_u2-pad9_ net-_u2-pad10_ net-_u2-pad11_ net-_u2-pad12_ ] [net-_u6-pad9_ net-_u6-pad10_ net-_u6-pad11_ net-_u6-pad12_ net-_u6-pad13_ net-_u6-pad14_ net-_u6-pad15_ net-_u6-pad16_ ] u6
a5 [column column column en ] [net-_u2-pad1_ net-_u2-pad2_ net-_u2-pad3_ net-_u2-pad4_ ] u3
a6 [row row row net-_u4-pad4_ ] [net-_u1-pad1_ net-_u1-pad2_ net-_u1-pad3_ net-_u1-pad4_ ] u4
* Schematic Name:                             sanket_decoder_3x8, NgSpice Name: sanket_decoder_3x8
.model u2 sanket_decoder_3x8(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 instance_id=1 ) 
* Schematic Name:                             dac_bridge_8, NgSpice Name: dac_bridge
.model u5 dac_bridge(out_low=0.0 out_high=5.0 out_undef=0.5 input_load=1.0e-12 t_rise=1.0e-9 t_fall=1.0e-9 ) 
* Schematic Name:                             sanket_decoder_3x8, NgSpice Name: sanket_decoder_3x8
.model u1 sanket_decoder_3x8(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 instance_id=1 ) 
* Schematic Name:                             dac_bridge_8, NgSpice Name: dac_bridge
.model u6 dac_bridge(out_low=0.0 out_high=5.0 out_undef=0.5 input_load=1.0e-12 t_rise=1.0e-9 t_fall=1.0e-9 ) 
* Schematic Name:                             adc_bridge_4, NgSpice Name: adc_bridge
.model u3 adc_bridge(in_low=1.0 in_high=2.0 rise_delay=1.0e-9 fall_delay=1.0e-9 ) 
* Schematic Name:                             adc_bridge_4, NgSpice Name: adc_bridge
.model u4 adc_bridge(in_low=1.0 in_high=2.0 rise_delay=1.0e-9 fall_delay=1.0e-9 ) 
.tran 0.1e-00 20e-00 0e-00

* Control Statements 
.control
run
print allv > plot_data_v.txt
print alli > plot_data_i.txt
plot v(q_65)+24 v(q_00)+20 v(en)+16 v(column)+12 v(row)+8 v(r_en)+4 v(d_in)
.endc
.end
