* e:\fossee\esim\library\subcircuitlibrary\sanket_sram_cell\sanket_sram_cell.cir

xsc3 net-_sc1-pad3_ net-_sc2-pad2_ gnd gnd sky130_fd_pr__nfet_01v8_lvt 
xsc5 net-_sc2-pad2_ net-_sc1-pad3_ gnd gnd sky130_fd_pr__nfet_01v8_lvt 
xsc1 net-_sc1-pad1_ net-_sc1-pad2_ net-_sc1-pad3_ gnd sky130_fd_pr__nfet_01v8_lvt 
xsc6 net-_sc6-pad1_ net-_sc1-pad2_ net-_sc2-pad2_ gnd sky130_fd_pr__nfet_01v8_lvt 
xsc2 net-_sc1-pad3_ net-_sc2-pad2_ net-_sc2-pad3_ net-_sc2-pad3_ sky130_fd_pr__pfet_01v8_lvt 
xsc4 net-_sc2-pad2_ net-_sc1-pad3_ net-_sc2-pad3_ net-_sc2-pad3_ sky130_fd_pr__pfet_01v8_lvt 
* u1  net-_sc1-pad1_ net-_sc1-pad3_ net-_sc2-pad3_ net-_sc1-pad2_ net-_sc6-pad1_ port
.tran 0.1e-00 20e-00 0e-00

* Control Statements 
.control
run
print allv > plot_data_v.txt
print alli > plot_data_i.txt
.endc
.end
