* e:\fossee\ws\3x8decoder_test\3x8decoder_test.cir

.include "E:\FOSSEE\eSim\library\sky130_fd_pr\models\sky130_fd_pr__model__inductors.model.spice"
.include "E:\FOSSEE\eSim\library\sky130_fd_pr\models\sky130_fd_pr__model__diode_pd2nw_11v0.model.spice"
.include "E:\FOSSEE\eSim\library\sky130_fd_pr\models\sky130_fd_pr__model__pnp.model.spice"
.include "E:\FOSSEE\eSim\library\sky130_fd_pr\models\sky130_fd_pr__model__r+c.model.spice"
.include "E:\FOSSEE\eSim\library\sky130_fd_pr\models\sky130_fd_pr__model__linear.model.spice"
.lib "E:\FOSSEE\eSim\library\sky130_fd_pr\models\sky130.lib.spice" tt
.include "E:\FOSSEE\eSim\library\sky130_fd_pr\models\sky130_fd_pr__model__diode_pw2nd_11v0.model.spice"
* u5  a2 a1 a0 net-_u5-pad4_ net-_u3-pad1_ net-_u3-pad2_ net-_u3-pad3_ net-_u3-pad4_ adc_bridge_4
* u6  net-_u3-pad5_ net-_u3-pad6_ net-_u3-pad7_ net-_u3-pad8_ net-_u3-pad9_ net-_u3-pad10_ net-_u3-pad11_ net-_u3-pad12_ y7 y6 y5 y4 y3 y2 y1 y0 dac_bridge_8
v4 net-_u5-pad4_ gnd  dc 1.8
v3  a0 gnd pulse(0 1.8 0.0 0.1 0.1 1 2)
v2  a1 gnd pulse(0  1.8 0.0 0.1 0.1 2 4)
v1  a2 gnd pulse(0 1.8 0.0 0.1 0.1 4 8)
* u9  y5 plot_v1
* u10  y4 plot_v1
* u7  y7 plot_v1
* u8  y6 plot_v1
* u11  y3 plot_v1
* u12  y2 plot_v1
* u13  y1 plot_v1
* u14  y0 plot_v1
* u1  a2 plot_v1
* u2  a1 plot_v1
* u4  a0 plot_v1
* s c m o d e
* u3  net-_u3-pad1_ net-_u3-pad2_ net-_u3-pad3_ net-_u3-pad4_ net-_u3-pad5_ net-_u3-pad6_ net-_u3-pad7_ net-_u3-pad8_ net-_u3-pad9_ net-_u3-pad10_ net-_u3-pad11_ net-_u3-pad12_ sanket_decoder_3x8
a1 [a2 a1 a0 net-_u5-pad4_ ] [net-_u3-pad1_ net-_u3-pad2_ net-_u3-pad3_ net-_u3-pad4_ ] u5
a2 [net-_u3-pad5_ net-_u3-pad6_ net-_u3-pad7_ net-_u3-pad8_ net-_u3-pad9_ net-_u3-pad10_ net-_u3-pad11_ net-_u3-pad12_ ] [y7 y6 y5 y4 y3 y2 y1 y0 ] u6
a3 [net-_u3-pad1_ net-_u3-pad2_ net-_u3-pad3_ ] [net-_u3-pad4_ ] [net-_u3-pad5_ net-_u3-pad6_ net-_u3-pad7_ net-_u3-pad8_ net-_u3-pad9_ net-_u3-pad10_ net-_u3-pad11_ net-_u3-pad12_ ] u3
* Schematic Name:                             adc_bridge_4, NgSpice Name: adc_bridge
.model u5 adc_bridge(in_low=1.0 in_high=2.0 rise_delay=1.0e-9 fall_delay=1.0e-9 ) 
* Schematic Name:                             dac_bridge_8, NgSpice Name: dac_bridge
.model u6 dac_bridge(out_low=0.0 out_high=5.0 out_undef=0.5 input_load=1.0e-12 t_rise=1.0e-9 t_fall=1.0e-9 ) 
* Schematic Name:                             sanket_decoder_3x8, NgSpice Name: sanket_decoder_3x8
.model u3 sanket_decoder_3x8(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 instance_id=1 ) 
.tran 0.1e-00 20e-00 0e-00

* Control Statements 
.control
run
print allv > plot_data_v.txt
print alli > plot_data_i.txt
plot v(y5)+100 v(y4)+90 v(y7)+80 v(y6)+70 v(y3)+60 v(y2)+50 v(y1)+40 v(y0)+30 v(a2)+20 v(a1)+10 v(a0)
.endc
.end
