* e:\fossee\ws\bit_addressable_1bit_sram_test\bit_addressable_1bit_sram_test.cir

.include BIT_ADDRESSABLE_SRAM_1BIT.sub
.include "E:\FOSSEE\eSim\library\sky130_fd_pr\models\sky130_fd_pr__model__linear.model.spice"
.include "E:\FOSSEE\eSim\library\sky130_fd_pr\models\sky130_fd_pr__model__pnp.model.spice"
.lib "E:\FOSSEE\eSim\library\sky130_fd_pr\models\sky130.lib.spice" tt
.include "E:\FOSSEE\eSim\library\sky130_fd_pr\models\sky130_fd_pr__model__r+c.model.spice"
.include "E:\FOSSEE\eSim\library\sky130_fd_pr\models\sky130_fd_pr__model__diode_pw2nd_11v0.model.spice"
.include "E:\FOSSEE\eSim\library\sky130_fd_pr\models\sky130_fd_pr__model__inductors.model.spice"
.include "E:\FOSSEE\eSim\library\sky130_fd_pr\models\sky130_fd_pr__model__diode_pd2nw_11v0.model.spice"
v1  en gnd pulse(0 1.8 0.0 0.1 0.1 5 10)
v2  data gnd pulse(0 1.8 0.0 0.1 0.1 1 2)
* u1  en plot_v1
* u2  data plot_v1
* u3  q plot_v1
* s c m o d e
x1 en en data en q BIT_ADDRESSABLE_SRAM_1BIT
.tran 0.1e-00 20e-00 0e-00

* Control Statements 
.control
run
print allv > plot_data_v.txt
print alli > plot_data_i.txt
plot v(en)+8 v(data)+4 v(q)
.endc
.end
