* e:\fossee\ws\sram_8bit_test\sram_8bit_test.cir

.include 8BIT_SRAM.sub
.include "E:\FOSSEE\eSim\library\sky130_fd_pr\models\sky130_fd_pr__model__inductors.model.spice"
.include "E:\FOSSEE\eSim\library\sky130_fd_pr\models\sky130_fd_pr__model__diode_pd2nw_11v0.model.spice"
.include "E:\FOSSEE\eSim\library\sky130_fd_pr\models\sky130_fd_pr__model__pnp.model.spice"
.include "E:\FOSSEE\eSim\library\sky130_fd_pr\models\sky130_fd_pr__model__r+c.model.spice"
.include "E:\FOSSEE\eSim\library\sky130_fd_pr\models\sky130_fd_pr__model__linear.model.spice"
.lib "E:\FOSSEE\eSim\library\sky130_fd_pr\models\sky130.lib.spice" tt
.include "E:\FOSSEE\eSim\library\sky130_fd_pr\models\sky130_fd_pr__model__diode_pw2nd_11v0.model.spice"
v1  wl gnd pulse(0 1.8 0.0 0.1 0.1 10 20)
v2  r_en gnd pulse(0 1.8 0.0 0.1 0.1 3 6)
v3  d_in gnd pulse(0 1.8 0.0 0.1 0.1 1 2)
* u4  q0 plot_v1
* u5  q1 plot_v1
* u6  q2 plot_v1
* u8  q3 plot_v1
* u7  q4 plot_v1
* u9  q5 plot_v1
* u10  q6 plot_v1
* u11  q7 plot_v1
* u1  wl plot_v1
* u2  r_en plot_v1
* u3  d_in plot_v1
* s c m o d e
x1 wl r_en q7 q6 d_in q5 d_in q4 d_in q3 d_in q2 q1 d_in d_in q0 d_in d_in 8BIT_SRAM
.tran 0.1e-00 20e-00 0e-00

* Control Statements 
.control
run
print allv > plot_data_v.txt
print alli > plot_data_i.txt
plot v(q0)+20 v(q1)+18 v(q2)+16 v(q3)+14 v(q4)+12 v(q5)+10 v(q6)+8 v(q7)+6 v(wl)+4 v(r_en)+2 v(d_in)
.endc
.end
